US20010046991A1
0.91 ml (10 mmol) of aniline and 1.69 g (10 mmol of ethyl(ethoxymethylene)cyanoacetate were dissolved in 10 ml of pyridine and heated under reflux. After 3 h pyridine was removed under vacuum, and the residue was purified by chromatography (silica gel column, eluent 1% methanol in dichloromethane). 1.08 g (50%) of ethyl(anilinomethylene)cyanoacetate were obtained. The compound was cyclized by heating in a biphenyl/phenyl ether mixture. After cooling a precipitate was filtered and washed with diethyl ether to give 4-hydroxyquinoline-3-carbonitrile (49%). Following the procedure outlined in Step 3 of Example 1, but substituting 4-hydroxyquinoline-3-carbonitrile for 9-(10H)acridone, 4-chloro-3-cyanoquinoline (90%) was obtained, which was reacted with 4-(4-methylpiperazin-1-yl)aniline (according to the procedure of Step 4 in Example 1), to afford the title compound with 12% yield (overall yield 3%).

reactant | aniline | 10 mmol, 0.91 ml | NC1=CC=CC=C1 | C6H7N
reactant | ethyl(ethoxymethylene)cyanoacetate | 10 mmol | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | ethyl(anilinomethylene)cyanoacetate | 1.08 g, 50% | C(C)OC(C(C#N)=CNC1=CC=CC=C1)=O | C12H12N2O2
